US05378729
Synthesis of 2-Acetamido-N-benzyl-2-(methylmercapto)acetamide
A cooled (-78° C.) solution of Et3N (4.85 g, 48.0 mmol) in THF (20 mL) was added to a cooled (-78° C.) solution of 2-acetamido-N-benzyl-2-bromoacetamide (prepared from 2-acetamido-N-benzyl-2-ethoxyacetamide (4.00 g, 16.0 mmol) and BBr3 (1M in CH2Cl2, 20.0 mL, 20.0 mmol)) in THF (275 mL). A cooled (-78° C.) solution of excess MeSH (5-6 equiv) in THF (55 mL) was then added. The reaction mixture was stirred at this temperature (30 min) and then at room temperature (1 h). The insoluble materials were filtered and the filtrate was evaporated to dryness in vacuo. The oily residue obtained was purified by flash column chromatography on SiO2 gel (2% MeOH/CHCl3) to give 1.10 g (27%) of the desired product as a yellow orange oil. The product was purified by a second flash column chromatography on SiO2 gel (2% MeOH/CHCl3) to give 0.72 g of the pure product as a white solid.

reactant | Et3N | 48.0 mmol, 4.85 g | CCN(CC)CC | C6H15N
reactant | 2-acetamido-N-benzyl-2-bromoacetamide | 16.0 mmol, 1M, 20.0 mL, 4.00 g | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)Br | C11H13BrN2O2
reactant | MeSH | 5-6 equiv | CS | CH4S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 275 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
product | 2-Acetamido-N-benzyl-2-(methylmercapto)acetamide | 1.10 g, 27% | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)SC | C12H16N2O2S
